Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
RUQ pain with elevated LFTs

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ year old man with history of hepatitis C (Genotype 3a/ VL 
___ on ___ not on treatment) presenting with elevated 
LFTs and RUQ abdominal pain.  

 Patient was getting routine blood work for follow up GI 
appointment later this month. He was noted to have significant 
elevations in LFTs ALT 1012 from 337, AST 238 from 97, elevated 
T Bili 1.6. Patient was advised to visit ___ ED for admission. 
 

 Pt reports intermittent RUQ pain since diagnosis several months 
ago, slightly worsened over past several days associated with 
mild nausea, and no vomiting. Denies any constipation, diarrhea, 
melena, BRBPR, or stool change. No recent rashes, jaundice or 
skin changes. Reports occasional gum bleeding with brushing 
teeth, no other bruising or bleeding. Patient denies Tylenol 
use.  

 Hepatology consulted and recommend admission for decompensated 
hepatitis.  

 In ED initial VS notable for 97.7 63 129/60 18 100% RA. Exam 
notable for Mild RUQ tenderness.  

 Labs notable for: Thrombocytopenia - plt 91.  
 ___: 13.5 PTT: 35.7 INR: 1.2  
 ALT: 971 AP: 118 Tbili: 1.0 Alb: 4.5  
 AST: 260  
 Serum Tox negative  
 UA- Yellow Urobil2 Bili Neg Prot Tr, few bacteria otherwise 
negative  
 Urine Tox negative  
 Imaging notable for:  
 Normal CXR  
 RUQ Ultrasound: 1. Unremarkable hepatic parenchyma. 2. 
Contracted gallbladder, without sonographic evidence of 
cholelithiasis or acute cholecystitis. 3. Borderline enlarged 
spleen.  
 VS Prior to transfer: 97.6 66 122/81 18 99% RA. On arrival to 
the floor he appears well. Denies abdominal pain, fevers, 
chills, nausea, vomiting.  
 
 ROS: per HPI, denies fever, chills, night sweats, shortness of 
breath, chest pain, diarrhea, constipation, BRBPR, melena, 
hematochezia, dysuria, hematuria. 
 
Past Medical History:
Nevus - R flank, removed by Derm  
Attention deficit disorder  
Shoulder dislocation s/p surgical repair  
Drug abuse in remission ___ (although patient denying 
drug use)  
Acute hepatitis C genotype 3a  
 
Social History:
___
Family History:
CAD/PVD; Diabetes  
 Mother Cancer - ___  
 Paternal Uncle ___ Cancer  
 Family history of premature coronary heart disease- Grandpa MI 
age ___  
 No history of liver disease  
 
Physical Exam:
PHYSICAL EXAMINATION on ADMISSION: 
 
 Vital Signs: 97.9 131/58 60 19 100%RA  
 General: Alert, oriented, no acute distress  
 HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, no LAD  
 CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
 Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
 Abdomen: Soft, tender to palpation over livers edge, 
non-distended, bowel sounds present, no rebound or guarding  
 GU: No foley  
 Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema.  
 Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, AOX3  
 Skin: warm, no jaundice or rashes noted on face, back, chest, 
arms or legs.  

PHYSICAL EXAM on DISCHARGE:
 
VS: Tmax: 97.7F  BP: 118-131/71-73  HR: 50-53  RR: 18 99-100% RA
GEN: Well-appearing man sitting upright in bed in NAD.
HEENT: Sclera anicteric, MMM, EOMI, PERRL. Neck supple
LYMPH: No cervical LAD
PULM: CTAB, no increased work of breathing
CV: RRR. Normal S1, S2. No M/R/G
GI: Normal bowel sounds. Nondistended, nontender. No 
hepatosplenomegaly.
EXT: Warm, well-perfused with ___ pulses throughout.
NEURO: CN II-XII in tact. A&Ox3. Normal strength and sensation 
throughout all extremities.
SKIN: No jaundice. Small nevus over right scapula with 
asymmetry, round borders, odd color distribution. No rashes or 
lesions.

 
Pertinent Results:
LABS on ADMISSION:

___ 08:40PM BLOOD WBC-7.9 RBC-5.04 Hgb-14.7 Hct-42.5 MCV-84 
MCH-29.2 MCHC-34.6 RDW-14.4 RDWSD-43.6 Plt Ct-91*
___ 08:40PM BLOOD Neuts-52.0 ___ Monos-8.1 Eos-3.2 
Baso-0.3 Im ___ AbsNeut-4.09 AbsLymp-2.86 AbsMono-0.64 
AbsEos-0.25 AbsBaso-0.02
___ 08:40PM BLOOD Plt Smr-LOW Plt Ct-91*
___ 10:24PM BLOOD ___ PTT-35.7 ___
___ 08:40PM BLOOD Glucose-86 UreaN-10 Creat-1.0 Na-140 
K-4.0 Cl-103 HCO3-27 AnGap-14
___ 08:40PM BLOOD ALT-971* AST-260* LD(LDH)-285* 
AlkPhos-118 TotBili-1.0
___ 08:40PM BLOOD Albumin-4.5

OTHER PERTINENT LABS:

___ 06:10AM BLOOD H/O Smr-DONE
___ 06:29PM BLOOD HBcAb-Negative
___ 01:36PM BLOOD HBsAg-Negative HBsAb-Negative IgM 
HAV-Negative
___ 01:12PM BLOOD Smooth-NEGATIVE
___ 06:29PM BLOOD AMA-NEGATIVE
___ 06:29PM BLOOD ___
___ 06:29PM BLOOD IgG-1081 IgA-80 IgM-158
___ 01:36PM BLOOD HIV Ab-Negative
___ 08:40PM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG
___ 06:29PM BLOOD RABIES ANTIBODY-PND
___ 01:36PM BLOOD HEPATITIS C VIRAL RNA, GENOTYPE-Test    

  
IMAGING/STUDIES: 
 
- Chest x-ray (___):
FINDINGS: The lungs are well expanded and clear. There is no 
pleural effusion or pneumothorax. The cardiomediastinal 
silhouette is unremarkable. An orthopedic screw is seen to 
project over the left shoulder.  
IMPRESSION: No acute cardiopulmonary process.  

- LIVER OR GALLBLADDER US  (___):
LIVER: The hepatic parenchyma appears within normal limits. The 
contour of the liver is smooth. There is no focal liver mass. 
The main portal vein is patent with hepatopetal flow. There is 
no ascites.  
BILE DUCTS: There is no intrahepatic biliary dilation. The CHD 
measures 2 mm.  
GALLBLADDER: Gallbladder is largely contracted, without evidence 
of  
 cholelithiasis.  
PANCREAS: Pancreas is not well visualized.  
SPLEEN: Normal echogenicity, measuring 13.7 cm.  
KIDNEYS: Limited images of the right kidney reveals no evidence 
of  
 hydronephrosis.  
RETROPERITONEUM: The visualized portions of aorta and IVC are 
within normal limits.  
IMPRESSION:  
 1. Unremarkable hepatic parenchyma.  
 2. Contracted gallbladder, without sonographic evidence of 
cholelithiasis or acute cholecystitis.  
 3. Borderline enlarged spleen. 

 
Brief Hospital Course:
___ man with history of hepatitis C (Genotype 3a/ VL 
4,226,690 on ___ not on treatment) with recent trip to ___ 
where he was scratched by a raccoon (reportedly had rabies 
protocol and completed doxycycline course) who presented with 
elevated LFTs found incidentally on routine lab checks, found to 
have mild, intermittent RUQ abdominal pain with new 
thrombocytopenia and coagulopathy, likely due to mononucleosis 
(EBV PCR high).

ACTIVE ISSUES:

#Transaminitis: Pt has HCV- Genotype 3A, VL 4,226,690 - infected 
likely between late ___ and ___, while 
sharing needles with person known to be hep C positive (although 
patient denying any hx of IVDU). He had tested negative in 
___ and on ___. Plan with atrius GI had 
been to monitor for clearance of hep C. It has now been approx. 
6 months since infection. Given his degree of elevation of 
AST/ALT, thrombocytopenia, and slight elevation in coags, it is 
likely that the patient has a concomitant viral hepatitis or 
acute hepatic injury from medication/drug use, on top of his 
pre-existing HCV. Unlikely to be acute HCV from previous 
infection given time course. No decrease in albumin or signs of 
cirrhosis on RUQ u/s. His AST/ALT are down trending, his 
platelet count has improved, and his INR is down to 1.1. His 
bilirubin has increased from 1.3 on admission to 1.7 today. 
HbsAg, HbsAb, HBcAb, IgM HAV all negative; AMA, anti smooth 
muscle negative. IgG 1081, IgA 80, IgM 158. HIV Ab negative. 
Serum tox negative for ASA, APAP, benzos, barbs, tricyclic. 
Ceruloplasmin negative. Repeat Hep C genotype during this 
admission: Genotype 3a. EBV DNA, QN PCR 1858 (H). Given 
improving LFTs, if bilirubin is also down trending with labs, pt 
can go home with outpatient hepatology follow-up.

# Thrombocytopenia - Patient has down trending platelets since 
___ of this year. Notes easy bleeding while brushing teeth and 
epistaxis, but pt reports this is long-standing. No evidence of 
anemia to suggest hemolytic process. Likely decreased in setting 
of acute infection or drug use causing hepatic injury. No 
medication use, ETOH use, or nutritional deficiencies that would 
explain this. No systemic symptoms or leukocytosis to suggest 
malignancy. Unlikely TTP/DIC with no e/o anemia or hemolytic 
process. Platelet count has improved from 96 on admission to 126 
today. EBV DNA, QN PCR 1858 (H), consistent with likely 
mononucleosis. HIV negative.

# Raccoon scratch: The patient was in ___ two weeks prior 
to admission, when he was scratched by a baby raccoon. He was 
reportedly seen in an ED, where he was given the rabies protocol 
and doxycycline for 10 days (completed). Rabies titer pending. 
F/u rabies titers.

#Coagulopathy: Slight elevation in INR and decreased platelets 
in setting of acute hepatitis C infection.

CHRONIC ISSUES:

#IVDU: Patient denies current and past history of IVDU. 
Documented opiate IVDU in past in atrius records. Likely source 
of HCV infection from sharing needles.

#Tobacco use: Currently quitting cigarette use but now using 
smokeless tobacco.

TRANSITIONAL ISSUES:

- Follow up with PCP within one week of discharge
- PCP to follow up rabies titer
- Patient should follow up with Dr. ___ in clinic, and fax 
weekly labs to her ___
#CODE: Full (confirmed) 
#CONTACT: Patient, ___ ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ascorbic Acid Dose is Unknown  PO DAILY 

 
Discharge Medications:
1. Ascorbic Acid ___ mg PO DAILY 
2. Outpatient Lab Work
Labs to be drawn weekly: Na, K, Cl, CO2, BUN, Cr, glucose, ALT, 
AST, AP, total bilirubin, INR

Please fax results to ___ ___  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
hepatitis C
Likely mononucleosis (high EBV PCR)

Secondary:
Nevus - R flank, removed by Derm  
 Attention deficit disorder  
 Shoulder dislocation s/p surgical repair  
 Drug abuse in remission ___ 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___. You were admitted 
because you were found to have high values on your liver enzymes 
in a recent lab draw. The findings indicate that you have 
Hepatitis C, and likely another possible cause of your hepatitis 
that is being worked up with a series of labs.

You should follow up with your PCP regarding the results of all 
the labs. In addition, you should follow up with Dr. ___ in 
clinic. Until you follow up with Dr. ___ should obtain 
weekly blood work to track your liver enzymes. You can obtain 
this blood work elsewhere, such as at an ___ office, but 
please ensure that the results are faxed results to Dr. ___ 
___ - ___. This is important in order to closely 
monitor your hepatitis C infection. If your liver enzyme levels 
do not improve, the liver doctor would likely recommend a liver 
biopsy to better determine the cause of your hepatitis flare.

You also indicated that you were recently scratched by a raccoon 
while on a trip on ___. You stated that you received 
medication for rabies and you were given an antibiotic for 10 
days. We sent off a test to see if there are any rabies titers 
in your blood, and will be notified if anything is found.

We wish you the best,

Your ___ Team
 
Followup Instructions:
___